US07842703B2
(±) 1-(1,1-dioxo-3,4-dihydro-spiro[2H-1-benzothiopyran-2,1′cyclobutane]-4-yl)-3-(isoquinolin-5-yl)urea
This compound was prepared in the same manner from above (±) 4-Amino-3,4-dihydro-1,1-dioxo-spiro[2H-1-benzothiopyran-2,1′-cyclobutane] and phenyl carbamate of 5-aminoisoquinoline as in step 1V of example 1.

reactant | (±) 4-Amino-3,4-dihydro-1,1-dioxo-spiro[2H-1-benzothiopyran-2,1′-cyclobutane] | NC1CC2(CCC2)S(C2=C1C=CC=C2)(=O)=O | C12H15NO2S
reactant | phenyl carbamate | C(N)(OC1=CC=CC=C1)=O | C7H7NO2
reactant | 5-aminoisoquinoline | NC1=C2C=CN=CC2=CC=C1 | C9H8N2
product | (±) 1-(1,1-dioxo-3,4-dihydro-spiro[2H-1-benzothiopyran-2,1′cyclobutane]-4-yl)-3-(isoquinolin-5-yl)urea | O=S1(C2=C(C(CC13CCC3)NC(=O)NC3=C1C=CN=CC1=CC=C3)C=CC=C2)=O | C22H21N3O3S
